US08212041B2
(4-bromo-2-chlorophenyl)methanamine
To a solution of 4-bromo-2-chlorobenzonitrile (2500 mg, 11549 μmol) in THF (20 mL) at 0° C. was added borane-methyl sulfide complex, 2.0 m sol in THF (28873 μl, 57747 μmol). Ice bath removed and reaction stirred overnight warming to 23° C. Reaction cooled to 0° C. and quenched with MeOH (15 mL). Reaction then partitioned between CHCl3 (100 mL) and 1M NaOH (100 mL). Organic dried with brine and MgSO4. Organic then concentrated to an oil under reduced pressure and purified on silica (80 g) eluting with 0>6% 2M NH3 in MeOH/DCM and product isolated as a colorless oil. MS (ESI pos. ion) m/z: 220/222 (MH+). Calc'd exact mass for C7H7BrClN: 219/221

reactant | 4-bromo-2-chlorobenzonitrile | 11549 μmol, 2500 mg | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 57747 μmol, 28873 μl | C1CCOC1 | C4H8O
product | (4-bromo-2-chlorophenyl)methanamine | BrC1=CC(=C(C=C1)CN)Cl | C7H7BrClN
